US08895313B2
2-Trifluoromethyl-N-[4-(6-methoxy-1,3-benzothiazol-2-yl)phenyl]-4-(methoxy)benzamide
A stirred mixture of 4-methoxy-2-trifluoromethylbenzoic acid (0.50 g, 2.27 mmol) and thionyl chloride (9 ml) was heated under reflux for 4 h. After cooling to room temperature, the excess reagent was removed under reduced pressure to give crude acid chloride. The amide was prepared as described in the Amide Coupling section using the crude 4-methoxy-5-trifluoromethylbenzoyl chloride and 2-(4-aminophenyl)-6-methoxybenzo thiazole (0.58 g, 2.27 mmol) in dry pyridine (15 ml) to give the title compound (0.478 g, 46%) as pale yellow needles after work-up and recrystallisation from acetic acid.

reactant | 4-methoxy-2-trifluoromethylbenzoic acid | 2.27 mmol, 0.50 g | COC1=CC(=C(C(=O)O)C=C1)C(F)(F)F | C9H7F3O3
reactant | thionyl chloride | 9 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-methoxy-5-trifluoromethylbenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1C(F)(F)F | C9H6ClF3O2
reactant | 2-(4-aminophenyl)-6-methoxybenzo thiazole | 2.27 mmol, 0.58 g | NC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC | C14H12N2OS
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 2-Trifluoromethyl-N-[4-(6-methoxy-1,3-benzothiazol-2-yl)phenyl]-4-(methoxy)benzamide | 0.478 g, 46% | FC(C1=C(C(=O)NC2=CC=C(C=C2)C=2SC3=C(N2)C=CC(=C3)OC)C=CC(=C1)OC)(F)F | C23H17F3N2O3S
